US05914339
5-{2-[2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-(benzyl) ester hydrochloride salt
The title compound was prepared from 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid and benzyl alcohol according to the procedure of Example I as a gummy white solid: 1H NMR (300 MHz, CDCl3): δ 1.26-1.32 (m, 3H), 2.76 (brt, 1H), 3.01-3.21 (brm, 2H), 3.36-3.49 (brm, 2H), 5.24 (s, 4H), 5.41 (d, J=9.5 Hz, 1H), 6.70-6.88 (m, 3H), 7.12-7.44 (complex m, 14H), 8.70-8.83 (brs, 1H), 9.95-10.10 (brs, 1H); MS (ES) m/z (relative intensity): 602 (M+, 100).

reactant | 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid | ClC=1C=C(C=CC1)C(CNC(CC1=CC2=C(OC(O2)(C(=O)O)C(=O)O)C=C1)C)O | C20H20ClNO7
reactant | benzyl alcohol | C(C1=CC=CC=C1)O | C7H8O
product | 5-{2-[2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-(benzyl) ester hydrochloride salt | Cl.C(C1=CC=CC=C1)OC(=O)C1(OC2=C(O1)C=CC(=C2)CC(C)NCC(O)C2=CC(=CC=C2)Cl)C(=O)OCC2=CC=CC=C2 | InChI=1S/C34H32ClNO7.ClH/c1-23(36-20-29(37)27-13-8-14-28(35)19-27)17-26-15-16-30-31(18-26)43-34(42-30,32(38)40-21-24-9-4-2-5-10-24)33(39)41-22-25-11-6-3-7-12-25;/h2-16,18-19,23,29,36-37H,17,20-22H2,1H3;1H
